Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Percocet / cucumber / Tegaderm
 
Attending: ___.
 
Chief Complaint:
cracked tooth, s/p fall
 
Major Surgical or Invasive Procedure:
tooth extraction
 
History of Present Illness:
Patient is a ___ year old G1P0 at ___ by U/S w/ h/o breast CA 
on DDAC chemotherapy in pregnancy and thyroid CA who presents 
after transfer from ED for tooth pain and for evaluation after a 
fall two days ago when she tripped on the ice and hit her 
shoulder. 

She reports progressive dental pain in the right lower molar. 
She has been unable to get dental treatment of her fractured 
molar in the outpatient setting due to concerns about pregnancy 
and medical complexity. She was therefore referred to the ED. 
OMFS was consulted while she was in the ED w/ plan for removal 
in the OR tomorrow. Findings included cracked tooth #29 w/ 
carriers extending to pulp. The patient was sent to OB triage 
given the mechanical fall. 

The patient denies any abdominal trauma or bruising. She has 
been having very irregular cramping, no contractions. She also 
reports intermittent sharp shooting pain from the groin to her 
belly button. Not exacerbated by anything. Pain cannot be 
reproduced. She denies and VB or LOF.
 
Past Medical History:
PNC:
- ___ ___ by US
- Labs: Rh+/ab neg/RPRNR/RI/HBsAg neg/HIV neg/ GBS unknown
- Genetics: LR ERA
- FFS: wnl 
- GLT: wnl
- US: ___, 67%, breech, ___, nl fluid, anterior placenta
- Issues:
*) breast cancer in pregnancy: unilateral mastectomy w/ sentinel
LN biopsy, s/p chemotherapy completed ___, plan for PP 
tamoxifen

*) mild asthma
*) History of papillary thyroid cancer x 2, on levothyroxine
175mcg daily; labs ___ - TSH 4.3 (elevated) but normal FT4 
(1.1)

ROS: per hpi  

GYNHx: h/o breast cancer

OBHx: G1, current
  
PMH: h/o breast cancer, mild asthma, h/o papillary
  
PSH: s/p unilateral mastectomy w/ sentinel LN biopsy
 
Social History:
___
Family History:
Family history: Aunt and mother with ALS. Mother, aunt,
grandmother: ___.  Father--prostate cancer (age ___
 
Physical Exam:
On admission:
___ 19:03Temp.: 98.0°F
___ 19:03BP: 121/65 (76)
___ ___: 69
___ ___: 67
GEN: NAD
Respiratory: no increased WOB
Abdomen: no bruising, non-tender, gravid
SVE: LCP
TAUS: vtx, anterior placenta, no sonographic evidence of 
abruption, MVP 5.4 
FHT: 130/moderate/+accels/ no decels

On discharge:
VS: 98.0, 114/71, 73, 16, O2 96% 
Gen: [x] NAD
Resp: [x] No evidence of respiratory distress
Abd: [x] soft  [x] non-tender 
Ext: [x] no edema [x] non-tender
 
Date: ___ Time: ___
FHT: 120s, mod var, +accels, no decels reactive
Toco: occ ctx
 
Pertinent Results:
n/a
 
Brief Hospital Course:
Patient is a ___ year old G1 with hx of breast CA on DDAC 
chemotherapy in pregnancy and thyroid CA admitted at 34w2d after 
a fall. On admission, she had no evidence of abruption or 
preterm labor. She reported mild cramping and her cervix was 
LCP. Fetal testing was reassuring. She also had a painful, 
cracked tooth and had been evaluated by OMFS in the emergency 
room. A plan was made for extraction in the OR. On HD#2, she 
underwent an uncomplicated tooth extraction under local 
anesthesia. Her pain resolved. She continued to have some 
intermittent cramping and pink discharge, however, she had no 
evidence of preterm labor. She was discharged to home in stable 
condition on HD#3 and will have close outpatient follow up.
 
Medications on Admission:
albuterol, levothyroxine
 
Discharge Medications:
Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*0 
Levothyroxine Sodium 200 mcg PO DAILY
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cracked tooth
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___, 
You were admitted to the ___ service for monitoring after 
a fall and prior to your procedure with the oral surgeons for a 
tooth extraction. You procedure went well and your baby was 
monitored before and after the procedure. You are now stable to 
be discharged home. Please see instructions below. 

You should continue biting down on a piece of gauze for 30 
minute interval. You may stop after ___ gauze changes. 
You should NOT have any hot/solid foods for the time being. You 
may continue drinking cool liquids.
You may transition to soft foods (eggs, pasta, pancake) tonight.
For pain control, you may take Tylenol as needed (do not take 
more than 4000mg in 24 hours). 

Please call your primary dentist with any questions or concerns. 


 Please call the office for:  
 - Worsening, painful or regular contractions  
 - Vaginal bleeding  
 - Leakage of water or concern that your water broke  
 - Abdominal pain  
 - Nausea/vomiting  
 - Fever, chills  
 - Decreased fetal movement  
 - Other concerns 
 
Followup Instructions:
___